US07964608B2
1-Cyclopentyl-7-methoxy-3-propyl-1H-pyrimido[5,4-c]quinoline-2,4-dione (14 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.10 mmol) and propyl isocyanate (0.4 mmol) following general procedure C. LCMS: m/z 354 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.49 (s, 1H), 7.82 (d, 1H), 7.59 (t, 1H), 7.24 (d, 1H), 5.01 (m, 1H), 4.15 (s, 3H), 4.03 (t, 2H), 2.40 (m, 2H), 2.09 (m, 4H), 1.76 (m, 2H), 1.63 (m, 2H), and 1.16 (t, 3H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.10 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | propyl isocyanate | 0.4 mmol | C(CC)N=C=O | C4H7NO
product | 1-Cyclopentyl-7-methoxy-3-propyl-1H-pyrimido[5,4-c]quinoline-2,4-dione | 14 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)CCC)=O | C20H23N3O3
